US09403801B2
Step 6) tert-butyl 2-(methylamino)-7-azaspiro[4.5]decane-7-carboxylate
To a solution of CH3NH2 (33% [w/w] in EtOH, 2 mL) was added tert-butyl 2-oxo-7-azaspiro[4.5]decane-7-carboxylate (197 mg, 0.78 mmol) and the reaction mixture was stirred at rt overnight. Then NaBH3CN (74 mg, 1.17 mmol) was added and the resulting mixture was stirred at rt for another 2 h and then concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/20) to give the title compound as colorless oil (208 mg, 100%).

reactant | CH3NH2 | 2 mL | CN | CH5N
reactant | tert-butyl 2-oxo-7-azaspiro[4.5]decane-7-carboxylate | 0.78 mmol, 197 mg | O=C1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C | C14H23NO3
reactant | NaBH3CN | 1.17 mmol, 74 mg | [BH3-]C#N.[Na+]
product | tert-butyl 2-(methylamino)-7-azaspiro[4.5]decane-7-carboxylate | 208 mg, 100% | CNC1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C | C15H28N2O2
